US08609657B2
6-Chloro-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazole
4-[5-(Bromomethyl)-1,3-oxazol-2-yl]-6-chloro-1-(phenylsulfonyl)-1H-indazole (0.580 g, 1.28 mmol) was dissolved in dichloromethane (5 ml) and (2R,6S)-2,6-dimethylmorpholine (0.317 ml, 2.56 mmol) added. The reaction mixture was stirred at RT for 3 h then the solvent removed under a stream of nitrogen. The resultant yellow solid was dissolved in dichloromethane (5 ml) and washed with water (2×2.5 ml). The layers were separated (hydrophobic frit) and the organic evaporated in vacuo to give the title compound as a pale yellow solid (0.60 g).

reactant | 4-[5-(Bromomethyl)-1,3-oxazol-2-yl]-6-chloro-1-(phenylsulfonyl)-1H-indazole | 1.28 mmol, 0.580 g | BrCC1=CN=C(O1)C1=C2C=NN(C2=CC(=C1)Cl)S(=O)(=O)C1=CC=CC=C1 | C17H11BrClN3O3S
reactant | (2R,6S)-2,6-dimethylmorpholine | 2.56 mmol, 0.317 ml | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-Chloro-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazole | 0.60 g | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CN1C[C@H](O[C@H](C1)C)C | C23H23ClN4O4S
